US07947683B2
4-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]butanal
To a stirred solution of 4-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]-1-butanol (0.115 g) in dichloromethane (2 ml) Dess-Martin periodinane (0.24 g) was added at room temperature. After 1.5 h aqueous NaHCO3 saturated solution (2 mL) was added to the reaction mixture, the organic phase extracted with DCM (6 mL) and the solvent removed under reduced pressure to give the title compound as an oil (40 mg) that was used in the following step as a such.

reactant | 4-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]-1-butanol | 0.115 g | CN1C(=NN=C1SC)CCCCO | C8H15N3OS
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2 ml, 0.24 g | ClCCl | CH2Cl2
product | 4-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]butanal | 40 mg | CN1C(=NN=C1SC)CCCC=O | C8H13N3OS
